US04254262
In a reactor, 100 ml of ethanol was charged and 95.3 g (0.375 mole) of 4-(4-trifluoromethylphenoxy)phenol, 85.4 g (0.412 mole) of ethyl 4-bromo-2-pentenoate and 39.0 g (0.281 mole) of potassium carbonate were added. The mixture was refluxed with stirring for 6 hours to react them. Ethanol was distilled off and 100 ml of chlorobenzene and 100 ml of water were added and the mixture was stirred at the room temperature for 30 minutes. The water phase was separated and the organic phase was washed with 5% hydrochloric acid and with water and then, chlorobenzene, ethyl 4-bromo-2-pentenoate and low boiling by-products were distilled off under a reduced pressure to obtain 10.47 g of ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoate. The yield was 73.5%.

reactant | 4-(4-trifluoromethylphenoxy)phenol | 0.375 mole, 95.3 g | FC(C1=CC=C(OC2=CC=C(C=C2)O)C=C1)(F)F | C13H9F3O2
reactant | ethyl 4-bromo-2-pentenoate | 0.412 mole, 85.4 g | BrC(C=CC(=O)OCC)C | C7H11BrO2
reactant | potassium carbonate | 0.281 mole, 39.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 4-[4-(4-trifluoromethylphenoxy)phenoxy]-2-pentenoate | 10.47 g, yield was 73.5% | FC(C1=CC=C(OC2=CC=C(OC(C=CC(=O)OCC)C)C=C2)C=C1)(F)F | C20H19F3O4
